* SKY130 SAR ADC — Proper StrongARM Latch Comparator
* Iteration 1: Optimize comparator, estimate ADC metrics.

.lib "sky130_models/sky130.lib.spice" tt

* Supply
Vdd vdd 0 DC 1.8
Vss vss 0 DC 0

* Clock — DC=1.8V for DC analysis (comp in eval mode)
*        PULSE for transient (precharge/evaluate cycles, 100MHz)
Vclk clk 0 DC 1.8 PULSE(0 1.8 0 0.1n 0.1n 5n 10n)

* Differential input
Vinp inp 0 DC 0.9
Vinm inm 0 DC 0.9

* === Proper StrongARM Latch Comparator ===
* Topology: tail switch + diff pair + cross-coupled inverter latch
* NMOS latch sources connect to diff pair outputs (sa/sb),
* so latch is disabled during precharge (sa=sb=VDD).

* Tail current switch (clocked NMOS)
XMtail ntail clk vss vss sky130_fd_pr__nfet_01v8 W={Wtail}u L={Ltail}u nf=1

* Input NMOS differential pair
XM1 sa inp ntail vss sky130_fd_pr__nfet_01v8 W={Win}u L={Lin}u nf=1
XM2 sb inm ntail vss sky130_fd_pr__nfet_01v8 W={Win}u L={Lin}u nf=1

* Cross-coupled PMOS latch
XMp1 outn outp vdd vdd sky130_fd_pr__pfet_01v8 W={Wlat}u L={Llat}u nf=1
XMp2 outp outn vdd vdd sky130_fd_pr__pfet_01v8 W={Wlat}u L={Llat}u nf=1

* Cross-coupled NMOS latch (sources to sa/sb, NOT vss)
XMn1 outn outp sa vss sky130_fd_pr__nfet_01v8 W={Wlatn}u L={Llatn}u nf=1
XMn2 outp outn sb vss sky130_fd_pr__nfet_01v8 W={Wlatn}u L={Llatn}u nf=1

* Reset PMOS — precharge sa, sb, outn, outp to VDD when clk=0
XMr1 sa clk vdd vdd sky130_fd_pr__pfet_01v8 W={Wrst}u L=0.15u nf=1
XMr2 sb clk vdd vdd sky130_fd_pr__pfet_01v8 W={Wrst}u L=0.15u nf=1
XMr3 outn clk vdd vdd sky130_fd_pr__pfet_01v8 W={Wrst}u L=0.15u nf=1
XMr4 outp clk vdd vdd sky130_fd_pr__pfet_01v8 W={Wrst}u L=0.15u nf=1

* Output buffers (inverters for clean digital output)
XMbp1 bufp outn vdd vdd sky130_fd_pr__pfet_01v8 W=2u L=0.15u nf=1
XMbn1 bufp outn vss vss sky130_fd_pr__nfet_01v8 W=1u L=0.15u nf=1
XMbp2 bufn outp vdd vdd sky130_fd_pr__pfet_01v8 W=2u L=0.15u nf=1
XMbn2 bufn outp vss vss sky130_fd_pr__nfet_01v8 W=1u L=0.15u nf=1

.options reltol=0.003 method=gear

* === Measurements ===
.control

* -------------------------------------------------------
* Test 1: DC sweep for offset
* With clk DC=1.8V, comparator is in evaluation mode.
* bufp rises from 0 to VDD as Vinp crosses trip point.
* -------------------------------------------------------
dc Vinp 0.87 0.93 0.001
meas dc vtrip find v(inp) when v(bufp)=0.9 rise=1
echo "RESULT_VTRIP $&vtrip"

* -------------------------------------------------------
* Test 2: Transient with 1-LSB differential (7 mV)
* Measure resolve time and verify correct comparison.
* -------------------------------------------------------
alter Vinp = 0.9035
alter Vinm = 0.9
tran 0.1n 60n

* Resolve time: 3rd clock edge to output
meas tran tclk when v(clk)=0.9 rise=3
meas tran tout when v(bufp)=0.9 rise=3
echo "RESULT_TCLK $&tclk"
echo "RESULT_TOUT $&tout"

* Check correct decision during 3rd evaluation (24ns is mid-eval)
meas tran outp_val find v(bufp) at=24n
meas tran outm_val find v(bufn) at=24n
echo "RESULT_OUTP_VAL $&outp_val"
echo "RESULT_OUTM_VAL $&outm_val"

* Average supply current (power measurement)
meas tran avg_idd avg i(Vdd) from=10n to=50n
echo "RESULT_AVG_IDD $&avg_idd"

echo "RESULT_DONE"
.endc

.end
