* SKY130 SAR ADC — Double-Tail Sense-Amplifier Comparator
* Iteration 2: Double-tail topology for better speed, lower offset, reduced kickback.
* Separate integration (stage 1) and latch (stage 2) with independent tail currents.

.lib "sky130_models/sky130.lib.spice" tt

* Supply
Vdd vdd 0 DC 1.8
Vss vss 0 DC 0

* Clock — DC=1.8V for DC analysis (comp in eval mode)
*        PULSE for transient (precharge/evaluate cycles, 100MHz)
Vclk clk 0 DC 1.8 PULSE(0 1.8 0 0.1n 0.1n 5n 10n)

* Differential input
Vinp inp 0 DC 0.9
Vinm inm 0 DC 0.9

* === CDAC Loading Model ===
* Switch resistance + capacitive load models realistic CDAC interface
Rsw_p inp inp_c {Rsw}
Rsw_n inm inm_c {Rsw}
Ccdac_p inp_c vss {Cload}p
Ccdac_n inm_c vss {Cload}p

* === Double-Tail Sense-Amplifier Comparator ===

* --- Stage 1: Integration ---
* Tail NMOS (clocked) — controls integration current
XMtail1 ntail1 clk vss vss sky130_fd_pr__nfet_01v8 W={Wtail1}u L={Ltail1}u nf=1

* Input NMOS differential pair
XM1 sa inp_c ntail1 vss sky130_fd_pr__nfet_01v8 W={Win}u L={Lin}u nf=1
XM2 sb inm_c ntail1 vss sky130_fd_pr__nfet_01v8 W={Win}u L={Lin}u nf=1

* Reset PMOS for sa, sb (precharge to VDD when clk=0)
XMrsa sa clk vdd vdd sky130_fd_pr__pfet_01v8 W={Wrst}u L=0.15u nf=1
XMrsb sb clk vdd vdd sky130_fd_pr__pfet_01v8 W={Wrst}u L=0.15u nf=1

* --- Stage 2: Cross-coupled Latch ---
* Tail NMOS for latch (clocked) — separate from integration
XMtail2 ntail2 clk vss vss sky130_fd_pr__nfet_01v8 W={Wtail2}u L={Ltail2}u nf=1

* PMOS pair — gates driven by sa/sb from integration stage
* This couples the integration result into the latch
XMp1 outn sa vdd vdd sky130_fd_pr__pfet_01v8 W={Wlatp}u L={Llatp}u nf=1
XMp2 outp sb vdd vdd sky130_fd_pr__pfet_01v8 W={Wlatp}u L={Llatp}u nf=1

* Cross-coupled NMOS latch — provides regenerative feedback
XMn1 outn outp ntail2 vss sky130_fd_pr__nfet_01v8 W={Wlatn}u L={Llatn}u nf=1
XMn2 outp outn ntail2 vss sky130_fd_pr__nfet_01v8 W={Wlatn}u L={Llatn}u nf=1

* Reset PMOS for outputs (precharge to VDD when clk=0)
XMro1 outn clk vdd vdd sky130_fd_pr__pfet_01v8 W={Wrst2}u L=0.15u nf=1
XMro2 outp clk vdd vdd sky130_fd_pr__pfet_01v8 W={Wrst2}u L=0.15u nf=1

* Output buffers (inverters for clean digital output)
* bufp = inv(outp): when inp > inm, outp goes LOW, bufp goes HIGH
XMbp1 bufp outp vdd vdd sky130_fd_pr__pfet_01v8 W=2u L=0.15u nf=1
XMbn1 bufp outp vss vss sky130_fd_pr__nfet_01v8 W=1u L=0.15u nf=1
XMbp2 bufn outn vdd vdd sky130_fd_pr__pfet_01v8 W=2u L=0.15u nf=1
XMbn2 bufn outn vss vss sky130_fd_pr__nfet_01v8 W=1u L=0.15u nf=1

.options reltol=0.003 method=gear

* === Measurements ===
.control

* -------------------------------------------------------
* Test 1: DC sweep for offset
* With clk DC=1.8V, comparator is in evaluation mode.
* bufp rises from 0 to VDD as Vinp crosses trip point.
* -------------------------------------------------------
dc Vinp 0.87 0.93 0.001
meas dc vtrip find v(inp) when v(bufp)=0.9 rise=1
echo "RESULT_VTRIP $&vtrip"

* -------------------------------------------------------
* Test 2: Transient with 1-LSB differential (7 mV)
* Measure resolve time and verify correct comparison.
* -------------------------------------------------------
alter Vinp = 0.9035
alter Vinm = 0.9
tran 0.1n 60n

* Resolve time: 3rd clock edge to output
meas tran tclk when v(clk)=0.9 rise=3
meas tran tout when v(bufp)=0.9 rise=3
echo "RESULT_TCLK $&tclk"
echo "RESULT_TOUT $&tout"

* Check correct decision during 3rd evaluation (24ns is mid-eval)
meas tran outp_val find v(bufp) at=24n
meas tran outm_val find v(bufn) at=24n
echo "RESULT_OUTP_VAL $&outp_val"
echo "RESULT_OUTM_VAL $&outm_val"

* Average supply current (power measurement)
meas tran avg_idd avg i(Vdd) from=10n to=50n
echo "RESULT_AVG_IDD $&avg_idd"

echo "RESULT_DONE"
.endc

.end
